US09226923B2
To a solution of tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate (600 mg, 2.5 mmol, 1.0 equiv) in MeOH (6.0 mL) was added sodium borohydride (190 mg, 5.0 mmol, 2.0 equiv) in portions at 0° C. under nitrogen. The mixture was stirred at room temperature for 2.0 hrs. The solution was concentrated by evaporator to give the white solid. Saturated NaHCO3 solution (40 mL) was added. The aqueous phase was extracted with DCM (4×30 mL). The combined organic phase was dried over anhydrous Na2SO4, concentrated to give the crude which was purified by CombiFlash (24 g silica gel column, EtOAc/Hexane=0-60%) to afford 334 mg (yield 57%) of tert-butyl 2-hydroxy-7-azaspiro[3.5]nonane-7-carboxylate as a white solid.

reactant | tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate | 2.5 mmol, 600 mg, 1.0 equiv | O=C1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H21NO3
reactant | sodium borohydride | 5.0 mmol, 190 mg, 2.0 equiv | [BH4-].[Na+]
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 6.0 mL | CO | CH4O
product | tert-butyl 2-hydroxy-7-azaspiro[3.5]nonane-7-carboxylate | 334 mg, yield 57% | OC1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H23NO3
